data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03816_sup_1.json
{"doi": "10.1021_acs.orglett.3c03816_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical alkoxycarbonyl-alkoxylation of styrenes with potassium ethyl oxalate and alcohols via a radical-polar crossover pathway", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of iodide (from NH4I mediator) generates I2/I• which oxidatively decarboxylates the oxalate to an ethoxycarbonyl radical; this carbon radical adds to the styrene and the resulting benzylic radical is further oxidized at the anode to a benzylic cation trapped by EtOH", "key_intermediates": [{"name": "ethoxycarbonyl radical (•CO2Et) from decarboxylation of ethyl oxalate", "smiles": "[CH2]C(=O)OCC", "role": "transient"}, {"name": "benzylic C-radical after addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation after anodic oxidation of benzyl radical", "smiles": null, "role": "reactive"}, {"name": "cyclopropylcarbinyl radical / ring-opened homoallyl radical (from radical clock substrate 13)", "smiles": null, "role": "transient"}], "electron_flow": "Anodic oxidation of iodide regenerates an I-based mediator that oxidizes potassium ethyl oxalate, releasing CO2 and an ethoxycarbonyl radical; this radical adds to the styrene to give a benzylic radical, which is oxidized at the anode to a benzylic cation and trapped by ethanol, while the cathode reduces protons/NH4+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 2 equiv TEMPO completely suppressed formation of product 3a (no 3a detected by GC-MS/1H NMR), consistent with a radical intermediate"}, {"name": "(1-cyclopropylvinyl)-4-methylbenzene (radical clock substrate 13)", "smiles": "Cc1ccc(C(=C)C2CC2)cc1", "purpose": "radical_clock", "observation": "Gave both the unopened cyclopropyl product 14 (63%) and the ring-opened homoallylic ether 15 (10%), indicating a carbon-centered radical intermediate that partially undergoes cyclopropylcarbinyl ring opening"}], "evidence_types_used": ["intermediate_trap_TEMPO", "radical_clock"], "evidence_strength": "medium", "notes": "Mechanistic studies shown include only TEMPO trapping and a radical clock; the radical-polar crossover (oxidation of benzylic radical to cation, trapped by alcohol) is inferred from the alkoxylation outcome rather than directly probed on these pages. NH4I acts as a redox mediator and Et4NBF4 as supporting electrolyte."}
